### PR TITLE
[Merged by Bors] - feat: Finsets of cardinality > 1 in Pi types

### PR DESCRIPTION
**Pull request by alreadydone**
Add an equivalent condition for `1 < m * n` in Nat, and two lemmas about Finsets of cardinality > 1.

---

useful for a refactoring of a proof in https://github.com/leanprover-community/mathlib4/pull/6723#issuecomment-1694527020

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Basic.lean [hunk 1]
```diff
@@ -358,6 +358,17 @@ theorem lt_succ_iff_lt_or_eq {n i : ℕ} : n < i.succ ↔ n < i ∨ n = i :=
   lt_succ_iff.trans Decidable.le_iff_lt_or_eq
 #align nat.lt_succ_iff_lt_or_eq Nat.lt_succ_iff_lt_or_eq
 
+set_option push_neg.use_distrib true in
+/-- The product of two natural numbers is greater than 1 if and only if
+  at least one of them is greater than 1 and both are positive. -/
+lemma one_lt_mul_iff : 1 < m * n ↔ 0 < m ∧ 0 < n ∧ (1 < m ∨ 1 < n) := by
+  constructor <;> intro h
+  · contrapose! h; simp_rw [Nat.le_zero] at h
+    obtain rfl | rfl | h := h; simp; simp; exact Nat.mul_le_mul h.1 h.2
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Basic.lean:367]: This would be more robust as:
```suggestion
    obtain rfl | rfl | h := h
    · simp
    · simp
    · exact Nat.mul_le_mul h.1 h.2
```

File: Mathlib/Data/Nat/Basic.lean [hunk 2]
```diff
@@ -364,7 +364,10 @@ set_option push_neg.use_distrib true in
 lemma one_lt_mul_iff : 1 < m * n ↔ 0 < m ∧ 0 < n ∧ (1 < m ∨ 1 < n) := by
   constructor <;> intro h
   · contrapose! h; simp_rw [Nat.le_zero] at h
-    obtain rfl | rfl | h := h; simp; simp; exact Nat.mul_le_mul h.1 h.2
+    obtain rfl | rfl | h := h
+    · simp
+    · simp
+    · exact Nat.mul_le_mul h.1 h.2
```
Comment (alreadydone) [inline Mathlib/Data/Nat/Basic.lean:370]: Is there a way to fit this in one line? In Lean 3 I'd just do `{simp}, {simp}, {exact ...}` which (I think) corresponds to `· simp; · simp; · exact ...` in Lean 4 but I can't get it work; `obtain rfl | rfl | h := h <;> simp <|> exact Nat.mul_le_mul h.1 h.2` doesn't work either IIRC. Am I missing a trick to combine `simp <|> exact Nat.mul_le_mul h.1 h.2` into a block?

File: Mathlib/Data/Finset/Card.lean [hunk 3]
```diff
@@ -590,6 +590,25 @@ theorem exists_ne_of_one_lt_card (hs : 1 < s.card) (a : α) : ∃ b, b ∈ s ∧
   · exact ⟨y, hy, ha⟩
 #align finset.exists_ne_of_one_lt_card Finset.exists_ne_of_one_lt_card
 
+/-- The product of the cardinalities of two Finsets is greater than 1 iff
+  one of the cardinalities is greater than 1 and both Finsets are nonempty. -/
+lemma one_lt_card_mul_card_iff {t : Finset β} : 1 < s.card * t.card ↔
+    s.Nonempty ∧ t.Nonempty ∧ (1 < s.card ∨ 1 < t.card) := by
```
Comment (ocfnash) [inline Mathlib/Data/Finset/Card.lean:596]: How about:
```suggestion
lemma nontrivial_prod_iff {t : Finset β} : Nontrivial (s ×ˢ t) ↔
    s.Nonempty ∧ t.Nonempty ∧ (Nontrivial s ∨ Nontrivial t) := by
```

Comment (ocfnash) [reply Mathlib/Data/Finset/Card.lean:596]: I've opened #7131 which adds the missing `Finset.one_lt_card_iff_nontrivial`.

I suggest we wait until its fate is decided and then reconsider the statement here.

Comment (alreadydone) [reply Mathlib/Data/Finset/Card.lean:596]: #7131 looks good to me, but since it doesn't change [Finset.one_lt_card](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Card.html#Finset.one_lt_card), [Finset.one_lt_card_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Card.html#Finset.one_lt_card_iff), and [Finset.exists_ne_of_one_lt_card](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Card.html#Finset.exists_ne_of_one_lt_card) to use `Nontrivial`, it shouldn't affect the choice whether to use `Nontrivial` here.

Comment (ocfnash) [reply Mathlib/Data/Finset/Card.lean:596]: This is obviously subjective so if you remain unconvinced I can let it go. Just before I do, I'd like to state my case more explicitly.

I claim the statement:
```lean
    Nontrivial (s ×ˢ t) ↔ s.Nonempty ∧ t.Nonempty ∧ (Nontrivial s ∨ Nontrivial t)
```
is preferable to the statement:
```lean
    1 < s.card * t.card ↔ s.Nonempty ∧ t.Nonempty ∧ (1 < s.card ∨ 1 < t.card)
```
This is partly because the statement using `Nontrivial` is how I actually think about this result; I agree this is debatable.

However now that I #7131 has made `Finset.one_lt_card_iff_nontrivial_coe` available, I do not believe there is much strength to an argument about other lemmas mentioning `1 < s.card` rather than `Nontrivial s`. Indeed the proof of my suggested statement could just be:
```lean
  simp_rw [← card_pos, ← one_lt_card_iff_nontrivial_coe, card_product]; apply Nat.one_lt_mul_iff
```

**Comment by alreadydone** [comment]
Hmm hoskinson3 seems to run out of space, and I didn't get assigned a different runner after two retries:

> Current runner version: '2.309.0'
Runner name: 'hoskinson3'
Runner group name: 'Default'
Machine name: '1[4](https://github.com/leanprover-community/mathlib4/actions/runs/6189696918/job/16804358253#step:1:4)77649d818f'
GITHUB_TOKEN Permissions
Secret source: Actions
Prepare workflow directory
Prepare all required actions
Getting action download info
Error: No space left on device : '/home/lean/actions-runner/_work/_actions/dcarbone/install-jq-action/v1.0.1'

File: Mathlib/Data/Finset/Card.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Data/Finset/Card.lean]: Okay I adopted your statement but I'm not sure I'll use this lemma anymore ...

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
